US07528147B2
0.053 g of para-toluenesulfonic acid is added to a solution of 0.050 g of N-(2,4-dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide in 2 cm3 of dichloromethane and 5 cm3 of toluene, at a temperature in the region of 20° C. The reaction medium is stirred at this same temperature for 24 hours, at room temperature, and then heated at a temperature in the region of 60° C. for 24 hours. After cooling, the reaction medium is concentrated under reduced pressure. 5 cm3 of water and 10 cm3 of dichloromethane are added. The reaction medium is basified to pH 9 with 1N sodium hydroxide. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The residue obtained is purified on preparative LC/MS (water/acetonitrile/TFA). The solid obtained is taken up in 5 cm3 of dichloromethane and 2 cm3 of water, and then basified with 1N sodium hydroxide to pH 9. 0.008 g of N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide is obtained, the characteristics of which are as follows:

reactant | para-toluenesulfonic acid | 0.053 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-(2,4-dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide | 0.050 g | COC1=C(CN(S(=O)(=O)C2=CC=C(C=C2)OC(F)(F)F)CC2=C3C(=NC=C2)NC(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)C=CC(=C1)OC | C35H33F3N4O7S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 2 cm3 | ClCCl | CH2Cl2
solvent | toluene | 5 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | water | 2 cm3 | O | H2O
product | N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]-4-trifluoromethoxybenzenesulfonamide | 0.008 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CNS(=O)(=O)C2=CC=C(C=C2)OC(F)(F)F)N1 | C26H23F3N4O5S
